US09055743B2
2-Chloro-4,5,6,7-tetrahydro-1-benzothiophene
111 g (594 mmol) of 2-chloro-6,7-dihydro-1-benzothiophen-4(5H)-one together with 414 g (3.57 mol) of triethylsilane are initially charged in 1.25 ml of dichloromethane, and 506 g (3.57 mol) of boron trifluoride/ether complex are added at room temperature. The reaction mixture is stirred at room temperature for 84 h and then added to water. The organic phase is dried over sodium sulphate and concentrated under reduced pressure. This gives 90.0 g of 2-chloro-4,5,6,7-tetrahydro-1-benzothiophene.

reactant | 2-chloro-6,7-dihydro-1-benzothiophen-4(5H)-one | 594 mmol, 111 g | ClC=1SC2=C(C1)C(CCC2)=O | C8H7ClOS
reactant | triethylsilane | 3.57 mol, 414 g | C(C)[SiH](CC)CC | C6H16Si
reactant | water | O | H2O
solvent | dichloromethane | 1.25 ml | ClCCl | CH2Cl2
product | 2-Chloro-4,5,6,7-tetrahydro-1-benzothiophene | ClC=1SC2=C(C1)CCCC2 | C8H9ClS
